US06756367B2
5,7-Dimethyl-4-nitro-2,1,3-benzothiadiazole (20 g) is warmed to ebullition in water (2.2 l) and ethanol (2.2 l) and sodium dithionite is added portionwise (strongly exothermic reaction). The reaction mixture is immediately cooled in an ice bath and extracted with ethyl acetate. The organic phase is concentrated by evaporation and the residue recrystallised in water to give 4-amino-5,7-dimethyl-2,1,3-benzothiadiazole. Mp=113-114°.

reactant | 5,7-Dimethyl-4-nitro-2,1,3-benzothiadiazole | 20 g | CC1=C(C=2C(=NSN2)C(=C1)C)[N+](=O)[O-] | C8H7N3O2S
reactant | ethanol | 2.2 l | C(C)O | C2H6O
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 2.2 l | O | H2O
product | 4-amino-5,7-dimethyl-2,1,3-benzothiadiazole | NC1=C(C=C(C2=NSN=C21)C)C | C8H9N3S
